US07528136B2
To a mixture of 2-[4-(1-benzyl-4-methylamino-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile (0.1 mmol) and 3,4-dichloro-benzaldehyde (0.15 mmol) in 2 mL of CH2Cl2 stirring at rt, was added NaBH(OAc)3 (0.15 mmol) and NEt3 (0.3 mmol), and then the resulting mixture was stirred overnight. After purification through preparative HPLC, 2.5 mg of 2-(4-{1-benzyl-4-[(3,4-dichloro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile was obtained as colorless oil in 4.8% yield.

reactant | 2-[4-(1-benzyl-4-methylamino-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile | 0.1 mmol | C(C1=CC=CC=C1)N1C(CC(C1)NC)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C24H29N5O
reactant | 3,4-dichloro-benzaldehyde | 0.15 mmol | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | NaBH(OAc)3 | 0.15 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NEt3 | 0.3 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{1-benzyl-4-[(3,4-dichloro-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | 2.5 mg, 4.8% yield | C(C1=CC=CC=C1)N1C(CC(C1)N(C)CC1=CC(=C(C=C1)Cl)Cl)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C31H33Cl2N5O
